US05488064
A. (S)-2-(2,3-Epoxypropoxy)[1,1'-biphenyl]
13C NMR (CDCl3): δ155, 148, 132, 129, 128, 127, 126, 121,113, 69, 50, 44. TLC: Rf =0.5 in 25% EtOAc/hexane, p-anisaldehyde stain, UV.

reactant | p-anisaldehyde | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
product | (S)-2-(2,3-Epoxypropoxy)[1,1'-biphenyl] | O1[C@H](COC2=C(C=CC=C2)C2=CC=CC=C2)C1 | C15H14O2
